US08859571B2
A mixture of 2,4-difluoro-1-nitrobenzene (20 g, 126 mmol) in chlorosulfonic acid (44 g, 378 mmol) was stirred at 100° C. for 48 hours before being poured into ice-water and extracted with EtOAc. The organic extract was dried (Na2SO4) and concentrated, and the residue was triturated with 10% EtOAc-petroleum ether to give 2,4-difluoro-5-nitrobenzenesulfonyl chloride as a brown oil (21 g, 81%) which was used directly in the next step.

reactant | 2,4-difluoro-1-nitrobenzene | 126 mmol, 20 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | chlorosulfonic acid | 378 mmol, 44 g | ClS(=O)(=O)O | ClHO3S
product | 2,4-difluoro-5-nitrobenzenesulfonyl chloride | 21 g, 81% | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])S(=O)(=O)Cl | C6H2ClF2NO4S
